US05866588
A solution of 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-yl acetate (136 mg, 0.365 mmol) in a mixture of THF/water (5:1, 5 ml) was treated with sodium azide (28 mg, 0.44 mmol) and tetrakis(triphenylphosphine) palladium(0) (17 mg, 0.015 mmol). The reaction was stirred at room temperature for 18 hours. Solvent was removed under reduced pressure to leave a dark brown residue. The product was purified by column chromatography on silica-gel eluting with 5% methanol/DCM. Product containing fractions were combined and solvent removed under reduced pressure to yield {3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enyl}-azide as a brown gum (110 mg, 85%). 1H-NMR; δ (CDCl3), 7.67 (1H, m), 7.56 (1H, m), 7.40 (2H, m), 7.24 (2H, d, J=8.2 Hz), 7.19 (1H, t, J=6.8 Hz), 7.10 (2H, m), 6.91 (1H, dt, J=15.8, 6.6 Hz), 6.73 (2H, m), 4.02 (2H, d, J=8.8 Hz), 3.35 (2H, m), 2.70 (2H, m), 2.41 (3H, s) and 1.82 (4H, m).

reactant | 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-yl acetate | 0.365 mmol, 136 mg | C(C)(=O)OC\C=C\C1=NC(=CC=C1)\C(=C\CN1CCCC1)\C1=CC=C(C=C1)C | C24H28N2O2
reactant | sodium azide | 0.44 mmol, 28 mg | [N-]=[N+]=[N-].[Na+]
solvent | THF water | 5 ml | C1CCOC1.O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.015 mmol, 17 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | {3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-enyl}-azide | 110 mg, 85% | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/CN=[N+]=[N-] | C22H25N5
